US07842685B2
A mixture of 5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine (48.3 mg, 191 μmol), 4-bromo-3-methylbenzonitrile (45.0 mg, 230 μmol), PdCl2(AmPhos)2 (6.78 mg, 9.57 μmol), and cesium carbonate (187 mg, 574 μmol) in DMF (1.6 mL) was heated (microwave) under argon at 190° C. for 40 min. The reaction mixture was then partitioned between EtOAc (40 mL) and water (15 mL). The organic layer was separated, washed with water and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatographic purification of the residue (silica gel, 0-100% EtOAc/hexanes) furnished 3-methyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzonitrile as a light-yellow solid. MS (ESI) m/z: Calculated: 367.1; Observed: 368.1 (M++1).

reactant | 5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | 191 μmol, 48.3 mg | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC=N2 | C15H12N2S
reactant | 4-bromo-3-methylbenzonitrile | 230 μmol, 45.0 mg | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | cesium carbonate | 574 μmol, 187 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 1.6 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(AmPhos)2 | 9.57 μmol, 6.78 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 3-methyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzonitrile | CC=1C=C(C#N)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C23H17N3S
